### PR TITLE
[Merged by Bors] - feat(Algebra/Group/FiniteSupport): add HasFinite(Mul)Support and API

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds predicates `Function.HasFiniteMulSupport` and `Function.HasFiniteSupport` that indicate that a function has finite (multiplicative) support, plus API lemmas. Both the definition and the API lemmas are tagged `fun_prop`, so that one can show side goals requiring the (multiplicative) support of a function to be finite `by fun_prop`.

The new material is split into two files Algebra.Group.FiniteSupport.{Defs|Basic}, to allow for lighter imports when just needing the definitions.

Some (not yet conclusive) discussion is here on Zulip: [#mathlib4 > fun_prop for finite (multiplicative) support? @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/fun_prop.20for.20finite.20.28multiplicative.29.20support.3F/near/570411560).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,172 @@
...
+variable {α M : Type*} [One M]
+
+-- why do we need both versions?
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_one' : HasFiniteMulSupport (1 : α → M) := by
+  simp [HasFiniteMulSupport]
+
+example : HasFiniteMulSupport (1 : ℕ → ℕ) := by fun_prop
+
+example : HasFiniteMulSupport fun _ : ℕ ↦ (1 : ℤ) := by fun_prop
```
Comment (erdOne) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: I think these should be in its own dedicated test file in `MathlibTest/`.

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,172 @@
...
+@[expose] public section
+
+namespace Function
+
+variable {α M : Type*} [One M]
+
+-- why do we need both versions?
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_one' : HasFiniteMulSupport (1 : α → M) := by
+  simp [HasFiniteMulSupport]
```
Comment (erdOne) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: They are not reducibly equal so one would need both.

File: Mathlib/Algebra/FiniteSupport/Basic.lean (hunk 1 above)
Comment (CBirkbeck) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: we probably dont want these.

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,172 @@
...
+
+example : HasFiniteMulSupport (1 : ℕ → ℕ) := by fun_prop
+
+example : HasFiniteMulSupport fun _ : ℕ ↦ (1 : ℤ) := by fun_prop
+
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_fst {M' : Type*} [One M'] (f : α → M × M') (hf : HasFiniteMulSupport f) :
+    HasFiniteMulSupport fun a ↦ (f a).fst := by
```
Comment (erdOne) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: Is it true that if `HasFiniteMulSupport f` and `g 1 = 1`, then `HasFiniteMulSupport (g ∘ f)`? If so this should be proved with that.

Edit: I see it is `hasFiniteMulSupport_comp`.

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,172 @@
...
+  simp only [HasFiniteMulSupport] at hf ⊢
+  refine hf.subset fun a ha ↦ ?_
+  simp only [mem_mulSupport] at ha ⊢
+  contrapose! ha
+  exact ha ▸ Prod.fst_one
+
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_snd {M' : Type*} [One M'] (f : α → M × M') (hf : HasFiniteMulSupport f) :
```
Comment (erdOne) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: Same here (and some other places below).

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,172 @@
...
+    HasFiniteMulSupport fun a ↦ (f a).snd := by
+  simp only [HasFiniteMulSupport] at hf ⊢
+  refine hf.subset fun a ha ↦ ?_
+  simp only [mem_mulSupport] at ha ⊢
+  contrapose! ha
+  exact ha ▸ Prod.snd_one
+
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_prod_mk {M' : Type*} [One M'] (f : α → M) (g : α → M')
```
Comment (erdOne) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]:
```suggestion
lemma hasFiniteMulSupport_prodMk {M' : Type*} [One M'] (f : α → M) (g : α → M')
```

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,172 @@
...
+lemma hasFiniteMulSupport_pow {M : Type*} [Monoid M] (f : α → M) (hf : HasFiniteMulSupport f)
+    (n : ℕ) :
+    HasFiniteMulSupport fun a ↦ f a ^ n :=
+  hf.subset <| f.mulSupport_pow n
+
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_max [LinearOrder M] (f g : α → M) (hf : HasFiniteMulSupport f)
+    (hg : HasFiniteMulSupport g) :
+    HasFiniteMulSupport fun a ↦ max (f a) (g a) :=
+    (hf.union hg).subset <| mulSupport_max ..
```
Comment (erdOne) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]:
```suggestion
  (hf.union hg).subset <| mulSupport_max ..
```

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,172 @@
...
+lemma hasFiniteMulSupport_iSup [ConditionallyCompleteLattice M] {ι : Sort*} [Nonempty ι]
+    [Finite ι] (f : ι → α → M) (hf : ∀ i, HasFiniteMulSupport (f i)) :
+    HasFiniteMulSupport fun a ↦ ⨆ i, f i a :=
+  (Set.finite_iUnion hf).subset <| mulSupport_iSup f
+
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_iInf [ConditionallyCompleteLattice M] {ι : Sort*} [Nonempty ι]
+    [Finite ι] (f : ι → α → M) (hf : ∀ i, HasFiniteMulSupport (f i)) :
+    HasFiniteMulSupport fun a ↦ ⨅ i, f i a :=
+  (Set.finite_iUnion hf).subset <| mulSupport_iInf f
```
Comment (erdOne) [inline Mathlib/Algebra/FiniteSupport/Basic.lean:143]: These should get `biSup` variants, i.e. `HasFiniteMulSupport fun a ↦ ⨆ i ∈ s, f i a` If `Set.Finite s`.

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,172 @@
...
+    HasFiniteMulSupport fun a ↦ s.inf' hs (f · a) := by
+  simp only [HasFiniteMulSupport] at hf ⊢
+  refine (s.finite_toSet.biUnion hf).subset fun a ha ↦ ?_
+  simp only [mem_mulSupport, SetLike.mem_coe, Set.mem_iUnion, exists_prop] at ha ⊢
+  contrapose! ha
+  exact Finset.inf'_eq_of_forall hs (fun x ↦ f x a) ha
+
+example {K ι : Type*} {v : ι → K → ℤ} (hv : ∀ x, HasFiniteMulSupport fun i ↦ v i x) (x y : K) :
+    HasFiniteMulSupport fun i ↦ max (v i x * v i y) 1 := by
+  fun_prop
```
Comment (CBirkbeck) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: another example here we probably dont want.

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,172 @@
...
+  (s.finite_toSet.biUnion fun i _ ↦ hf i).subset <| s.mulSupport_prod f
+
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_div {M : Type*} [DivisionMonoid M] (f g : α → M)
+    (hf : HasFiniteMulSupport f) (hg : HasFiniteMulSupport g) :
+    HasFiniteMulSupport fun a ↦ f a / g a :=
+  (hf.union hg).subset <| mulSupport_div ..
+
+@[to_additive (attr := fun_prop)]
+lemma hasFiniteMulSupport_pow {M : Type*} [Monoid M] (f : α → M) (hf : HasFiniteMulSupport f)
```
Comment (CBirkbeck) [inline Mathlib/Algebra/FiniteSupport/Basic.lean]: maybe we also want a `zpow` version while we are at it.

File: Mathlib/Algebra/FiniteSupport/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,172 @@
...
+public import Mathlib.Data.Set.Finite.Lattice
+
+import Mathlib.Algebra.Group.Support
+
+/-!
+# Make fun_prop work for finite (mulitplicative) support
+
+We provide API lemmas for the predicate `HasFiniteMulSupport` (and its additivized version)
+on functions so that `fun_prop` can prove it for functions that are
+built from other functions with finite multiplicative support.
```
Comment (CBirkbeck) [inline Mathlib/Algebra/FiniteSupport/Basic.lean:20]: do you also want to add some `HasProd` and `Multipliable` (and their additive) lemmas for these definitions as well?

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 11]
```diff
@@ -379,33 +381,37 @@ theorem finprod_eq_finset_prod_of_mulSupport_subset (f : α → M) {s : Finset 
...
+    ∏ᶠ i : α, f i = if h : HasFiniteMulSupport f then ∏ i ∈ h.toFinset, f i else 1 := by
   split_ifs with h
   · exact finprod_eq_prod_of_mulSupport_toFinset_subset _ h (Finset.Subset.refl _)
   · rw [finprod, dif_neg]
-    rw [mulSupport_comp_eq_preimage]
+    rw [HasFiniteMulSupport, mulSupport_comp_eq_preimage]
     exact mt (fun hf => hf.of_preimage Equiv.plift.surjective) h
 
 @[to_additive]
 theorem finprod_of_infinite_mulSupport {f : α → M} (hf : (mulSupport f).Infinite) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/BigOperators/Finprod.lean:393]: To my future self: add a version with \not f.HasFiniteMulSupport

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 12]
```diff
@@ -611,9 +617,9 @@ equals the product of `f i` divided by the product of `g i`. -/
 @[to_additive
       /-- If the additive supports of `f` and `g` are finite, then the sum of `f i - g i`
       equals the sum of `f i` minus the sum of `g i`. -/]
-theorem finprod_div_distrib [DivisionCommMonoid G] {f g : α → G} (hf : (mulSupport f).Finite)
-    (hg : (mulSupport g).Finite) : ∏ᶠ i, f i / g i = (∏ᶠ i, f i) / ∏ᶠ i, g i := by
-  simp only [div_eq_mul_inv, finprod_mul_distrib hf ((mulSupport_fun_inv g).symm.rec hg),
+theorem finprod_div_distrib [DivisionCommMonoid G] {f g : α → G} (hf : HasFiniteMulSupport f)
+    (hg : HasFiniteMulSupport g) : ∏ᶠ i, f i / g i = (∏ᶠ i, f i) / ∏ᶠ i, g i := by
+  simp only [div_eq_mul_inv, finprod_mul_distrib hf <| HasFiniteMulSupport.inv g hg,
```
Comment (MichaelStollBayreuth) [inline Mathlib/Algebra/BigOperators/Finprod.lean]: This can be golfed using dot notation.

File: Mathlib/Algebra/FiniteSupport/Basic.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/FiniteSupport/Basic.lean:20]: See `multipliable_of_finite_mulSupport` (in Mathlib.Topology.Algebra.InfiniteSum.Basic).

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 13]
```diff
@@ -133,7 +134,7 @@ protected theorem Set.Finite.multipliable {s : Set β} (hs : s.Finite) (f : β 
   rwa [hs.coe_toFinset] at this
 
 @[to_additive]
-theorem multipliable_of_finite_mulSupport [L.HasSupport] (h : (mulSupport f).Finite) :
+theorem multipliable_of_finite_mulSupport [L.HasSupport] (h : HasFiniteMulSupport f) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: Change name to `multipliable_of_hasFiniteMulSupport`.

File: Mathlib/Algebra/FiniteSupport/Basic.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Algebra/FiniteSupport/Basic.lean:143]: Can you give a precise statement? There are > 100 lemmas with "biSup" in the name, but they are rather inhomogeneous regarding what the sup is taken over and what assumptions to put on the target type. (And there is no `mulSupport_biSup`.)

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 14]
```diff
@@ -379,33 +381,42 @@ theorem finprod_eq_finset_prod_of_mulSupport_subset (f : α → M) {s : Finset 
...
+  simp only [HasFiniteMulSupport]
+  rw [dif_neg hf]
+
+@[to_additive]
+theorem finprod_of_not_hasFiniteMulSupport {f : α → M} (hf : ¬ f.HasFiniteMulSupport) :
+    ∏ᶠ i, f i = 1 :=
+  finprod_of_infinite_mulSupport <| Set.not_finite.mp hf
 
 @[to_additive]
 theorem finite_mulSupport_of_finprod_ne_one {f : α → M} (h : ∏ᶠ i, f i ≠ 1) :
```
Comment (erdOne) [inline Mathlib/Algebra/BigOperators/Finprod.lean:406]: This should be renamed as well.

File: Mathlib/Algebra/BigOperators/Finprod.lean [hunk 15]
```diff
@@ -379,33 +381,42 @@ theorem finprod_eq_finset_prod_of_mulSupport_subset (f : α → M) {s : Finset 
...
-    (mulSupport f).Finite :=
+    HasFiniteMulSupport f :=
   not_infinite.mp <| (finprod_of_infinite_mulSupport ·).mt h
 
 theorem finite_support_of_finsum_eq_one {R : Type*} [NonAssocSemiring R] {f : α → R}
```
Comment (erdOne) [inline Mathlib/Algebra/BigOperators/Finprod.lean:410]: And this.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 16]
```diff
@@ -299,11 +299,11 @@ lemma maximalIdeal_inj (w₁ w₂ : FinitePlace K) : maximalIdeal w₁ = maximal
   equivHeightOneSpectrum.injective.eq_iff
 
 theorem mulSupport_finite_int {x : 𝓞 K} (h_x_nezero : x ≠ 0) :
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:301]: Also this.

File: Mathlib/NumberTheory/NumberField/FinitePlaces.lean [hunk 17]
```diff
@@ -313,7 +313,7 @@ theorem mulSupport_finite_int {x : 𝓞 K} (h_x_nezero : x ≠ 0) :
   simp only [dvd_span_singleton, Set.image_subset_iff, Set.preimage_setOf_eq, subset_refl]
 
 theorem mulSupport_finite {x : K} (h_x_nezero : x ≠ 0) :
```
Comment (erdOne) [inline Mathlib/NumberTheory/NumberField/FinitePlaces.lean:315]: And this.

File: MathlibTest/Algebra/FiniteSupport.lean [hunk 18]
```diff
@@ -0,0 +1,24 @@
...
+-/
+
+open Function
+
+example : HasFiniteMulSupport fun _ : ℕ ↦ (1 : ℤ) := by fun_prop
+
+example : HasFiniteSupport (0 : ℕ → ℤ) := by fun_prop
+
+@[to_additive]
+lemma HasFiniteMulSupport_foo {K ι M : Type*} [Monoid M] {v : ι → K → ℤ}
```
Comment (erdOne) [inline MathlibTest/Algebra/FiniteSupport.lean:21]:
```suggestion
example {K ι M : Type*} [Monoid M] {v : ι → K → ℤ}
```

**Review by erdOne — COMMENTED** [review]
There are some names that needs to be changed.
But changing the name might be a mess to the diff. Since the diff of this PR is already quite large I am fine if this is done in a separate PR. 

Otherwise LGTM

**Review by jcommelin — COMMENTED** [review]
Thanks :tada: -- looking forward to the renaming PR

bors merge

File: MathlibTest/Algebra/FiniteSupport.lean (hunk 18 above)
Comment (MichaelStollBayreuth) [reply MathlibTest/Algebra/FiniteSupport.lean:21]: This is also meant to check that `to_additive` works, which is not possible with an `example`.
